US07465815B2
2,2,6,7-Tetramethyl-5-nitro-1-benzofuran-3 (2H)-one
To a solution of 2,2,6,7-tetramethyl-1-benzofuran-3 (2H)-one obtained in Reference Example 41 (5.20 g, 27.3 mmol) in anhydrous trifluoroacetic acid (50 mL) and chloroform (5 mL) was added ammonium nitrate (2.10 g, 32.8 mmol) at 0° C., and the mixture was stirred at the same temperature for 2 hours, and then concentrated under reduced pressure. Water was added to the residue, which was extracted with ethyl acetate. The extract was washed with water and a saturated sodium hydrogen carbonate solution, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was purified by silica gel column chromatography (hexane:ethyl acetate=50:1) to obtain 5.40 g (yield 84%) of the title compound. Melting point: 131-132° C. (ethyl acetate-hexane).

reactant | 2,2,6,7-tetramethyl-1-benzofuran-3 (2H)-one | CC1(OC2=C(C1=O)C=CC(=C2C)C)C | C12H14O2
reactant | ammonium nitrate | 32.8 mmol, 2.10 g | [N+](=O)([O-])[O-].[NH4+]
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,6,7-Tetramethyl-5-nitro-1-benzofuran-3 (2H)-one | 5.40 g, yield 84% | CC1(OC2=C(C1=O)C=C(C(=C2C)C)[N+](=O)[O-])C | C12H13NO4
